US06818772B2
cis-N-(7-chloroquinolin-4-yl)-N′-(quinolin-3-ylmethyl)cyclohexane-1,4-diamine
A solution of N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine (40 mg, 0.14 mmol) and 3-quinolinecarboxaldehyde (22 mg, 0.14 mmol) in dichloroethane (0.5 mL) and methanol (0.5 mL) was treated acetic acid (0.018 mg, 0.28 mmol) and MP-cyanoborohydride (100 mg, 0.436 mmol, Argonaut Technologies). The mixture was stirred at 60° C. for 18 hours, filtered, and purified by reverse phase HPLC to provide the desired compound.

reactant | N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine | 0.14 mmol, 40 mg | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)N | C15H18ClN3
reactant | 3-quinolinecarboxaldehyde | 0.14 mmol, 22 mg | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | acetic acid | 0.28 mmol, 0.018 mg | C(C)(=O)O | C2H4O2
reactant | cyanoborohydride | 0.436 mmol, 100 mg | C(#N)[BH3-]
solvent | dichloroethane | 0.5 mL | ClC(C)Cl | C2H4Cl2
solvent | methanol | 0.5 mL | CO | CH4O
product | cis-N-(7-chloroquinolin-4-yl)-N′-(quinolin-3-ylmethyl)cyclohexane-1,4-diamine | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1CC[C@@H](CC1)NCC=1C=NC2=CC=CC=C2C1 | C25H25ClN4
